### PR TITLE
feat: update Mathlib

### PR DESCRIPTION
**Pull request by vihdzp**
https://github.com/leanprover-community/mathlib4/pull/42351 just got merged, so I felt it pertinent to make a mid-version update.

### CODE REVIEW

File: CombinatorialGames/Game/Specific/Nim.lean [hunk 1]
```diff
@@ -153,7 +153,7 @@ theorem _root_.Game.birthday_nim (o : Nimber) : Game.birthday (.mk (nim o)) = .o
   · exact hu hy hxy
   have hyo := lf_right_of_le hxo.ge hy
   replace hy := Subposition.of_mem_moves hy
-  induction y using IsWellFounded.induction Subposition with | ind y ihy
+  induction y using wellFounded_subposition.induction with | h y ihy
```
Comment (plp127) [inline CombinatorialGames/Game/Specific/Nim.lean:156]: This seems like a regression to me, the case name `ind` is replaced by the less descriptive `h`. Unfortunately the induction theorem is in core...

Comment (vihdzp) [reply CombinatorialGames/Game/Specific/Nim.lean:156]: I agree with you. Making core PRs is always intimidating, though.

File: CombinatorialGames/Game/IGame.lean [hunk 2]
```diff
@@ -198,7 +198,7 @@ instance : IsTrans _ Subposition := inferInstanceAs (IsTrans _ (Relation.TransGe
 instance small_setOf_subposition (x : IGame.{u}) : Small.{u} {y | Subposition y x} :=
   small_transGen' _ x
 
-theorem subposition_wf : WellFounded Subposition := by
+instance wellFounded_subposition : WellFounded Subposition := by
```
Comment (plp127) [inline CombinatorialGames/Game/IGame.lean:201]: Why have we changed the name of this? I think `subposition_wf` was a fine name.

Comment (vihdzp) [reply CombinatorialGames/Game/IGame.lean:201]: I thought the `_wf` naming convention was a bit ad hoc. Should I revert these renames?

Comment (plp127) [reply CombinatorialGames/Game/IGame.lean:201]: It probably doesn't matter, as long as we're consistent.
